US03975384
6-Methyl-5-nitro-2-piperazino-4-(1,1-dioxido-thiomorpholino)-pyrimidine
A solution of 0.8 gm (0.005 mol) of potassium permanganate in 30 ml of water was slowly added dropwise to a solution of 1.6 gm (0.005 mol) of 6-methyl-5-nitro-2-piperazino-4-thiomorpholino-pyrimidine (m.p. 141°-142°C) in about 60 ml of 0.5 N hydrochloric acid at about 5°C. After stirring the reaction mixture for 1 hour at about 5°C, the precipitated manganese dioxide was removed by means of a sodium bisulfite solution. The reaction product was precipitated by addition of concentrated ammonia, washed with water and dried (m.p. 208°-211°C). Yield: 1.4 gm (79% of theory).

reactant | potassium permanganate | 0.005 mol, 0.8 gm | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 6-methyl-5-nitro-2-piperazino-4-thiomorpholino-pyrimidine | 0.005 mol, 1.6 gm | CC1=C(C(=NC(=N1)N1CCNCC1)N1CCSCC1)[N+](=O)[O-] | C13H20N6O2S
reactant | water | 30 ml | O | H2O
solvent | hydrochloric acid | 0.5 N, about 60 ml | Cl | ClH
product | 6-Methyl-5-nitro-2-piperazino-4-(1,1-dioxido-thiomorpholino)-pyrimidine | CC1=C(C(=NC(=N1)N1CCNCC1)N1CCS(CC1)(=O)=O)[N+](=O)[O-] | C13H20N6O4S
